Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1],7.71766183608
[C:6]([H:7])([H:8])=[C:9]([H:10])[O:11][H:12].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12],1.02978896419
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])([C:7][H:8])[H:14].[H:1][C:2]#[C:3][C:9]([H:10])([C:11][H:12])[H:13],8.210248844219999
[C:1][O:2][C:3]([H:4])[C:5]#[C:7][H:8].[H:6]>>[C:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7][H:8],-1.58234317355
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],4.62636317809
[H:1][C:2]([H:3])[H:4]>>[H:1][C:2][H:3].[H:4],5.73886306962
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2](=[O:3])[C:13]([H:14])([H:15])[H:16],-2.01141908
[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.441668481090001
[C:7]([H:8])#[C:9][O:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11],-1.51280427992
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[C:9][O:10][H:11],3.33133738702
[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1].[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11],5.598829477280001
[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:1],3.94969448385
[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-0.378000200029
[H:5].[O:1]=[C:2]([H:3])[C:4][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-4.702490537019999
[H:1][C:2]#[C:3][O:4][C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:6]([H:7])[H:8].[H:1][C:2]#[C:3][O:4][C:5]=[C:9]([H:10])[H:11],6.5141104295500005
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.5489037589900003
[H:11].[H:1][C:2]([H:3])=[C:4][C@:5]([H:6])([C:7]([H:8])=[C:9][H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4][C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.94088139282
[C:7]([H:8])([H:9])[H:10].[H:1][C:2][C:3]([H:4])([H:5])[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-4.93090062765
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10]>>[C:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8]([H:9])[H:10],3.47543422715
[H:14].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-1.74350210069
[C:4]([H:5])([H:6])=[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-0.712430968251
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C@@:4]1([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11]([H:12])[H:13],0.2601443859199999
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])[H:14],4.2540144922900005
[H:1][C:2][C:3]([H:4])([C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:3]([H:4])([C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2],4.634403471830001
[C:7][O:8][H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][H:9],-2.89797243445
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:7]([H:8])[H:9].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],5.29931028465
[O:1]=[C:2]=[C:3]([H:4])[C:5]=[C:6]([H:7])[H:8]>>[C:5]=[C:6]([H:7])[H:8].[O:1][C:2]#[C:3][H:4],4.07187611743
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[C:1][C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[C:2]#[C:3],7.73127135923
[H:16].[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.54241099995
